US08895761B2
4′-Chloro-3,5-diethylbiphen-4-ylamine (9.6 g, 0.036 mol) is added to acetonitrile (95 ml) and stirred at room temperature until dissolution is complete. The reaction mixture is cooled to between −5° C. and 0° C., tent-butyl nitrite (5.7 ml, 0.044 mol) is added dropwise and the reaction mixture is maintained at between −5° C. and 0° C. for 30-40 minutes. The mixture is added slowly to a preheated (50° C.) suspension of copper (I) bromide (2.87 g, 0.02 mol) in hydrobromic acid (2.8 ml) and stirred at 50° C. for 10-15 minutes. The reaction mixture is cooled to room temperature, then poured into ice-cold water and extracted with ethyl acetate (3×250 ml). The organic extracts are washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to yield 4-bromo-4′-chloro-3,5-diethylbiphenyl (4.5 g).

reactant | 4′-Chloro-3,5-diethylbiphen-4-ylamine | 0.036 mol, 9.6 g | ClC1=CC=C(C2=CC(=C(C(=C2)CC)N)CC)C=C1 | C16H18ClN
reactant | acetonitrile | 95 ml | C(C)#N | C2H3N
reactant | butyl nitrite | 0.044 mol, 5.7 ml | N(=O)OCCCC | C4H9NO2
reactant | hydrobromic acid | 2.8 ml | Br | BrH
catalyst | copper (I) bromide | 0.02 mol, 2.87 g | [Cu]Br
product | 4-bromo-4′-chloro-3,5-diethylbiphenyl | 4.5 g | BrC1=C(C=C(C=C1CC)C1=CC=C(C=C1)Cl)CC | C16H16BrCl
